* 4-to-1 MUX using NAND gates
* y = d0 (00), d1 (01), d2 (10), d3 (11)
.include MOSFET_models_0p5_0p18-4.inc

* Subcircuits
.subckt inv vin vo vdd gnd
M2 vo vin vdd vdd PMOS0P18 w=1.8u l=0.18u
M1 vo vin gnd gnd NMOS0P18 w=0.9u l=0.18u
.ends

.subckt nand vin1 vin2 vo vdd gnd
M2 vo  vin1 vdd vdd PMOS0P18 w=1.8u l=0.18u
M1 vo  vin2 vdd vdd PMOS0P18 w=1.8u l=0.18u
M4 vo  vin1 n1  gnd NMOS0P18 w=1.8u l=0.18u
M3 n1  vin2 gnd gnd NMOS0P18 w=1.8u l=0.18u
.ends

* Supply & Inputs
V1 vdd 0 1.8
Vd3 d3v 0 PULSE(0 1.8 0 10p 10p 40n 80n  4)
Vd2 d2v 0 PULSE(0 1.8 0 10p 10p 20n 40n  8)
Vd1 d1v 0 PULSE(0 1.8 0 10p 10p 10n 20n  16)
Vd0 d0v 0 PULSE(0 1.8 0 10p 10p 5n  10n  32)
Vs0 s0v 0 PULSE(0 1.8 80n  10p 10p 80n  160n 2)
Vs1 s1v 0 PULSE(0 1.8 160n 10p 10p 160n 320n 1)

* Select Inverters
X10 s0v s0b vdd 0 inv
X11 s1v s1b vdd 0 inv

* Stage 1: Input Gating
X1 s0v d3v n_x1 vdd 0 nand
X2 s0b d2v n_x2 vdd 0 nand
X3 s0v d1v n_x3 vdd 0 nand
X4 s0b d0v n_x4 vdd 0 nand

* Stage 2: Branch Combiners
X5 n_x1 n_x2 n_x5 vdd 0 nand
X6 n_x3 n_x4 n_x6 vdd 0 nand

* Stage 3: Stage Selection
X7 n_x5 s1v  n_x7 vdd 0 nand
X8 s1b  n_x6 n_x8 vdd 0 nand

* Stage 4: Output
X9 n_x7 n_x8 vout vdd 0 nand

* Simulation Setup
.tran 0.01n 320n
.meas TRAN tplh_d0 TRIG V(d0v) VAL=0.9 RISE=2 TARG V(vout) VAL=0.9 RISE=2
.meas TRAN tphl_d0 TRIG V(d0v) VAL=0.9 FALL=2 TARG V(vout) VAL=0.9 FALL=2
.meas TRAN avg_power AVG (I(V1)*1.8) FROM=0 TO=320n
.end
